US06593330B2
Step 1: 2-Chloro-6-[1-(3-fluorophenyl)ethoxy]pyrazine
To a solution of 2,6-dichloropyrazine (298 mg, 2.00 mmol) and 1-(3-fluorophenyl)ethanol (308 mg, 2.2 mmol) in dioxane (5 mL) was added NaH (55% in oil, 96 mg, 2.2 mmol) at room temperature. The reaction mixture was stirred over night. Water (0.5 mL) was added and the mixture was stirred for 15 min. Drying (K2CO3), filtration, and concentration in vacuo gave the title compound as an oil (0.55 g) that was used directly in the next step. MS m/z 254 (M+H)+.

reactant | 2,6-dichloropyrazine | 2.00 mmol, 298 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 1-(3-fluorophenyl)ethanol | 2.2 mmol, 308 mg | FC=1C=C(C=CC1)C(C)O | C8H9FO
reactant | NaH | 2.2 mmol, 96 mg | [H-].[Na+]
reactant | Water | 0.5 mL | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-6-[1-(3-fluorophenyl)ethoxy]pyrazine | 0.55 g | ClC1=NC(=CN=C1)OC(C)C1=CC(=CC=C1)F | C12H10ClFN2O
